US08309581B2
1-(3-Chloro-benzyl)-2-(4-chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-1H-benzoimidazole
The title compound was prepared in analogy to Example 19, from 5-chloro-2-[1-(3-chloro-benzyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenol (Example 53, intermediate a) and bromomethyl-cyclopentane (CAS Reg. No. 3814-30-0). Colorless powder (29%). MS (Turbo Spray): m/z=487.1 (M+H).

reactant | 5-chloro-2-[1-(3-chloro-benzyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1=CC(=CC=C1)Cl)C=C(C(=C2)F)F | C20H12Cl2F2N2O
reactant | bromomethyl-cyclopentane | BrCC1CCCC1 | C6H11Br
product | 1-(3-Chloro-benzyl)-2-(4-chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-1H-benzoimidazole | ClC=1C=C(CN2C(=NC3=C2C=C(C(=C3)F)F)C3=C(C=C(C=C3)Cl)OCC3CCCC3)C=CC1 | C26H22Cl2F2N2O
